US06872731B2
3-[3-(7-(2-Dimethylaminoethoxy)iminomethylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile
The title compound was prepared in a similar manner to that described in Example 14 using O-(2-dimethylaminoethyl)hydroxylamine hydrochloride (144 mg, 0.82 mmol) and 3-[3-(7-formylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile (90 mg, 0.27 mmol) to afford a yellow solid (42 mg, 38%), essentially as a single geometric isomer, m.p. 74-75° C. 1H NMR (360 MHz, CDCl3) δH 2.33 (6H, s), 2.67-2.71 (2H, m), 4.30-4.34 (2H, m), 7.33-7.37 (2H, m), 7.63-7.70 (4H, m), 7.79 (1H, s), 7.91 (1H, s), 8.15 (1H, s), 8.45 (1H, d, J 7); m/z (ES+) 416 (M++H).

reactant | O-(2-dimethylaminoethyl)hydroxylamine hydrochloride | 0.82 mmol, 144 mg | Cl.CN(CCON)C
reactant | 3-[3-(7-formylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile | 0.27 mmol, 90 mg | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(SC=C2)C#N | C19H11N3OS
product | 3-[3-(7-(2-Dimethylaminoethoxy)iminomethylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile | CN(CCON=CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(SC=C2)C#N)C | C23H21N5OS
